US05773476
M42: (E)-2-(benzylaminosulfonyl)-3-(3, 5-dimethyl-4-hydroxyphenyl)acrylonitrile
M42 was prepared with 3,5-dimethyl-4-hydroxybenzaldehyde and N-benzyl cyanomethylsulfonamide under similar conditions as described for M40 (part B).

reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | N-benzyl cyanomethylsulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)CC#N | C9H10N2O2S
product | (E)-2-(benzylaminosulfonyl)-3-(3, 5-dimethyl-4-hydroxyphenyl)acrylonitrile | C(C1=CC=CC=C1)NS(=O)(=O)\C(\C#N)=C\C1=CC(=C(C(=C1)C)O)C | C18H18N2O3S
